### PR TITLE
[Merged by Bors] - feat(RingTheory/MvPowerSeries/Substitution) : better API for rescale

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
This redefines `MvPowerSeries.rescale` under commutative semirings, to keep in line with [PowerSeries.rescale](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/PowerSeries/Basic.html#PowerSeries.rescale).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 1]
```diff
@@ -363,97 +385,148 @@ theorem subst_comp_subst_apply (ha : HasSubst a) (hb : HasSubst b) (f : MvPowerS
...
+
+-- To match the `PowerSeries.rescale` API which holds for `CommSemiring`,
+-- we redo it by hand.
+
+/-- The ring homomorphism taking a multivariate power series `f(X)` to `f(aX)`. -/
+noncomputable def rescale (a : σ → R) : MvPowerSeries σ R →+* MvPowerSeries σ R where
+  toFun f := fun n ↦ (n.prod fun s m ↦ a s ^ m) * f.coeff R n
+  map_zero' := by
+    ext
+    simp only [LinearMap.map_zero, mul_zero, coeff_apply]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean:400]:
```suggestion
    simp [map_zero, coeff_apply]
```

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 2]
```diff
@@ -363,97 +385,148 @@ theorem subst_comp_subst_apply (ha : HasSubst a) (hb : HasSubst b) (f : MvPowerS
...
+  map_one' := by
+    ext1 n
+    classical
+    simp only [coeff_one, mul_ite, mul_one, mul_zero]
+    split_ifs with h
+    · simp [h, coeff_apply]
+    · simp [coeff_apply]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean:407]:
```suggestion
    · simp only [coeff_apply, ite_eq_right_iff]
```

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 3]
```diff
@@ -185,6 +197,16 @@ theorem coe_substAlgHom (ha : HasSubst a) : ⇑(substAlgHom ha) = subst (R := R)
   letI : UniformSpace S := ⊥
   rw [substAlgHom_eq_aeval, coe_aeval ha.hasEval, subst_eq_eval₂]
 
+theorem subst_self : subst (MvPowerSeries.X : σ → MvPowerSeries σ R) = id := by
+  rw [← coe_substAlgHom HasSubst.X]
+  simp
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean:202]:
```suggestion
```
The `simp` is non terminal but the proof works without it.

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 4]
```diff
@@ -363,97 +385,148 @@ theorem subst_comp_subst_apply (ha : HasSubst a) (hb : HasSubst b) (f : MvPowerS
...
+    classical
+    simp only [coeff_one, mul_ite, mul_one, mul_zero]
+    split_ifs with h
+    · simp [h, coeff_apply]
+    · simp [coeff_apply]
+      exact fun a_1 ↦ False.elim (h a_1)
+  map_add' := by
+    intros
+    ext
+    dsimp only
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean:412]:
```suggestion
```

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 5]
```diff
@@ -363,97 +385,148 @@ theorem subst_comp_subst_apply (ha : HasSubst a) (hb : HasSubst b) (f : MvPowerS
...
+    · simp only [← mul_assoc]
+      congr 1
+      rw [mul_assoc, mul_comm (f x.1), ← mul_assoc]
+      congr 1
+      rw [← Finset.prod_mul_distrib]
+      apply Finset.prod_congr rfl
+      simp [pow_add]
+    · simp [pow_zero]
+    · simp [pow_zero]
+    · simp [pow_zero]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean:435]:
```suggestion
    all_goals {simp}
```

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 6]
```diff
@@ -363,97 +385,148 @@ theorem subst_comp_subst_apply (ha : HasSubst a) (hb : HasSubst b) (f : MvPowerS
...
-noncomputable def rescale_algHom (a : σ → R) :
-    MvPowerSeries σ R →ₐ[R] MvPowerSeries σ  R :=
-  substAlgHom (hasSubst_rescale a)
+@[simp]
+theorem rescale_zero :
+    (rescale 0 : MvPowerSeries σ R →+* MvPowerSeries σ R) = (C σ R).comp (constantCoeff σ R) := by
+  classical
+  ext x n
+  simp [Function.comp_apply, RingHom.coe_comp, rescale, RingHom.coe_mk, coeff_C]
+  split_ifs with h -- <;> simp [h]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean:448]:
```suggestion
  split_ifs with h
```

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 7]
```diff
@@ -363,97 +385,148 @@ theorem subst_comp_subst_apply (ha : HasSubst a) (hb : HasSubst b) (f : MvPowerS
...
+  · simp [h, coeff_apply, ← @coeff_zero_eq_constantCoeff_apply, coeff_apply]
+  · simp only [coeff_apply]
+    convert zero_mul _
+    simp only [DFunLike.ext_iff, not_forall, Finsupp.coe_zero, Pi.zero_apply] at h
+    obtain ⟨s, h⟩ := h
+    simp only [Finsupp.prod]
+    apply Finset.prod_eq_zero (i := s) _ (zero_pow h)
+    simpa only [Finsupp.mem_support_iff, ne_eq] using h
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean:456]:
```suggestion
    simpa using h
```

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 8]
```diff
@@ -363,97 +385,148 @@ theorem subst_comp_subst_apply (ha : HasSubst a) (hb : HasSubst b) (f : MvPowerS
...
-theorem rescale_algHom_one :
-    rescale_algHom 1 = AlgHom.id R (MvPowerSeries σ R):= by
-  rw [DFunLike.ext_iff]
-  intro f
-  simp [coe_rescale_algHom, rescale_one]
+theorem rescale_rescale (f : MvPowerSeries σ R) (a b : σ → R) :
+    rescale b (rescale a f) = rescale (a * b) f := by
+  ext n
+  simp [coeff_rescale, ← mul_assoc, Finsupp.prod, ← Finset.prod_mul_distrib, Pi.mul_apply,
+    mul_pow, mul_comm]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean:470]:
```suggestion
  simp [← mul_assoc, mul_pow, mul_comm]
```

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 9]
```diff
@@ -363,97 +385,148 @@ theorem subst_comp_subst_apply (ha : HasSubst a) (hb : HasSubst b) (f : MvPowerS
...
+  rw [coeff_rescale]
+  rw [coeff_subst (HasSubst.smul_X a),
+    finsum_eq_sum _ (coeff_subst_finite (HasSubst.smul_X a) f n)]
+  simp only [Pi.smul_apply', smul_eq_mul]
+  rw [Finset.sum_eq_single n _ _]
+  · simp [mul_comm, ← monomial_eq, coeff_monomial]
+  · intro b hb hbn
+    rw [← monomial_eq, coeff_monomial, if_neg (Ne.symm hbn), mul_zero]
+  · intro hn
+    simpa only [Set.Finite.mem_toFinset, Function.mem_support, ne_eq, Decidable.not_not] using hn
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean:511]:
```suggestion
    simpa using hn
```

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 10]
```diff
@@ -363,97 +385,148 @@ theorem subst_comp_subst_apply (ha : HasSubst a) (hb : HasSubst b) (f : MvPowerS
...
+noncomputable def rescale_MonoidHom :
+    (σ → R) →* MvPowerSeries σ R →+* MvPowerSeries σ R where
+  toFun := rescale
+  map_one' := rescale_one
+  map_mul' a b := by ext; simp  [mul_comm, rescale_rescale]
+
+
+end CommSemiring
+
+theorem rescale_eq_subst (a : σ → R) (f : MvPowerSeries σ R) :
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean:498]: Can you create a section `CommRing`? Thanks!

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 11]
```diff
@@ -363,97 +385,148 @@ theorem subst_comp_subst_apply (ha : HasSubst a) (hb : HasSubst b) (f : MvPowerS
...
+  · intro hn
+    simpa only [Set.Finite.mem_toFinset, Function.mem_support, ne_eq, Decidable.not_not] using hn
+
+noncomputable def rescaleAlgHom (a : σ → R) :
+    MvPowerSeries σ R →ₐ[R] MvPowerSeries σ R :=
+  substAlgHom (HasSubst.smul_X a)
+
+theorem rescaleAlgHom_apply (a : σ → R) (f : MvPowerSeries σ R) :
+    rescaleAlgHom a f = rescale a f := by
+  simp only [rescaleAlgHom, substAlgHom_apply, rescale_eq_subst]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean:519]:
```suggestion
  simp [rescaleAlgHom, rescale_eq_subst]
```

File: Mathlib/RingTheory/MvPowerSeries/Substitution.lean [hunk 12]
```diff
@@ -363,97 +385,148 @@ theorem subst_comp_subst_apply (ha : HasSubst a) (hb : HasSubst b) (f : MvPowerS
...
+
+theorem rescaleAlgHom_mul (a b : σ → R) :
+    rescaleAlgHom (a * b) = (rescaleAlgHom b).comp (rescaleAlgHom a) := by
+  ext1 f
+  simp only [AlgHom.coe_comp, Function.comp_apply, rescaleAlgHom_apply, rescale_rescale]
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/MvPowerSeries/Substitution.lean:524]:
```suggestion
  simp [rescaleAlgHom_apply, rescale_rescale]
```

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

**Comment by Ruben-VandeVelde** [comment]
It seems like there's a lot of missing deprecations here?

**Comment by AntoineChambert-Loir** [comment]
The files date from two days ago, the better naming has been observed when uploading the next file.
Probably it's not necessary to add them.
